US07737166B2
4-Amino-3-cyano-6-fluoro-5-hydroxy-2-methylbiphenyl (I-41)
Under nitrogen atmosphere, at −78° C., 1 M borane trifluoride/methylene chloride solution (3.0 ml, 3.0 mmol) was dropwise added to a methylene chloride (10 ml) solution of 4-amino-3-cyano-6-fluoro-5-methoxy-2-methylbiphenyl (I-39) (250 mg, 1.0 mmol), taking 10 minutes, followed by stirring for 4 hours and a half with gradually heating up to 0° C. Water with ice was added to the reaction liquid, followed by neutralization at pH of 7 with aqueous 10% sodium carbonate solution and extraction three times with chloroform, the organic layer was washed with saturated brine, then dried over anhydrous magnesium sulfate. After filtration and concentration under reduced pressure, the resulting residue gave the entitled compound (225 mg, 93%) as a white solid.

reactant | borane trifluoride methylene chloride | 3.0 mmol, 1 M, 3.0 ml | [F-].[F-].[F-].B.C(Cl)Cl
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | 4-amino-3-cyano-6-fluoro-5-methoxy-2-methylbiphenyl | NC1=C(C(=C(C(=C1OC)F)C1=CC=CC=C1)C)C#N | C15H13FN2O
solvent | Water | O | H2O
product | 4-Amino-3-cyano-6-fluoro-5-hydroxy-2-methylbiphenyl | 225 mg, 93% | NC1=C(C(=C(C(=C1O)F)C1=CC=CC=C1)C)C#N | C14H11FN2O
